data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2242,2487,[CH3:11][C:12](=[O:13])[C:14]([C:15]([CH3:16])=[O:17])=[N+:18]([CH3:19])[C-:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[N:1]#[C:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[N:1]#[C:2][C:3]12[C:4]([Cl:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:14]([C:12]([CH3:11])=[O:13])([C:15]([CH3:16])=[O:17])[N:18]([CH3:19])[C:20]2([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,52.42164294024483,1.7287516614026033
4676,5331,[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15](=[O:16])[NH:17][CH3:18])=[N+:19]([CH3:20])[CH-:21][C:22]([CH3:23])=[O:24].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:15](=[O:16])[NH:17][CH3:18])[N:19]([CH3:20])[CH:21]1[C:22]([CH3:23])=[O:24],water,298.15,18.39074902165508,-24.23554889208356
2768,3075,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)([C:19]([F:20])([F:21])[F:22])[CH2:23][CH2:24][CH2:25][CH2:26]1.[CH3:27][C:28]([C:29]#[N:30])=[N+:31]([CH3:32])[CH-:33][c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([c:13]3[cH:14][cH:15][cH:16][cH:17][cH:18]3)([C:19]([F:20])([F:21])[F:22])[CH2:23][CH2:24][CH2:25][CH2:26]1)[CH:33]([c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1)[N:31]([CH3:32])[C:28]2([CH3:27])[C:29]#[N:30],water,298.15,16.49993562846238,-37.524099500038254
306,332,[CH3:1][C:2](=[O:3])[C:4]([CH3:5])=[C:6]([CH3:7])[CH3:8].[CH3:9][NH:10][C:11](=[O:12])[c:13]1[nH+:14][c-:15]([CH3:16])[c:17](=[O:18])[o:19]1>>[CH3:1][C:2](=[O:3])[C:4]1([CH3:5])[C:6]([CH3:7])([CH3:8])[C:15]2([CH3:16])[NH:14][C:13]1([C:11]([NH:10][CH3:9])=[O:12])[O:19][C:17]2=[O:18],water,298.15,25.8941154593398,-2.4335344411581747
5052,5740,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15](=[O+:16][C-:17]([CH3:18])[C:19](=[O:20])[NH:21][CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:17]([CH3:18])([C:19](=[O:20])[NH:21][CH3:22])[O:16][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,13.45772379202476,-38.38765725023894
198,215,[CH3:11][C:12]([CH3:13])=[O+:14][C-:15]([CH3:16])[C:17]#[N:18].[CH3:1][O:2][C:3]1=[C:4]([CH3:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]1=[C:4]([CH3:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:15]([CH3:16])([C:17]#[N:18])[O:14][C:12]3([CH3:11])[CH3:13],water,298.15,8.688080353770104,-67.84773327838764
2757,3063,[CH3:19][NH:20][C:21](=[O:22])[C:23]([C:24]#[N:25])=[N+:26]([CH3:27])[CH-:28][C:29](=[O:30])[O:31][CH3:32].[N:1]#[C:2][C:3]1([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[C:10]#[C:11][C:12]([Br:13])([Br:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[N:1]#[C:2][C:3]1([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[C:10]2=[C:11]([C:12]([Br:13])([Br:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[CH:28]([C:29](=[O:30])[O:31][CH3:32])[N:26]([CH3:27])[C:23]2([C:21]([NH:20][CH3:19])=[O:22])[C:24]#[N:25],water,298.15,15.235268971906065,-44.857963119406605
3172,3580,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[N:5]#[C:6][C:7]#[N+:8][C-:9]([C:10]#[N:11])[c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[C:9]([C:10]#[N:11])([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[N:8]=[C:7]1[C:6]#[N:5],water,298.15,13.148966766396684,-44.325453775613546
1086,1184,[CH3:13][NH:14][C:15](=[O:16])[C:17]#[N+:18][N-:19][c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([CH3:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[N:19]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[N:18]=[C:17]2[C:15]([NH:14][CH3:13])=[O:16],water,298.15,14.626255654938864,-39.62787122411204
368,399,[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][Cl:7].[CH3:8][NH:9][C:10](=[O:11])[C:12]([C:13]#[N:14])=[NH+:15][CH-:16][C:17]([CH3:18])=[O:19]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[C:12]([C:10]([NH:9][CH3:8])=[O:11])([C:13]#[N:14])[NH:15][CH:16]1[C:17]([CH3:18])=[O:19],water,298.15,16.500473363580753,-45.870748336790285
3665,4185,[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9].[N:10]#[C:11][C:12]#[N+:13][N-:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[N:14]([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[N:13]=[C:12]1[C:11]#[N:10],water,298.15,11.417090947141142,-41.05258732813957
